US07405305B2
2-(8-Hydroxymethyl-6,7,8,9-tetrahydropyrido[1,2-a]indol 10-yl)acetamide
Dissolve (1H-indol-3-yl)acetonitrile (3.40 mmol) in dry dimethyl sulfoxide (3.0 mL), cool in an ice bath, combine with anhydrous potassium carbonate (0.200 g) and 30% hydrogen peroxide (0.6 mL), keeping the reaction temperature below 20° C. Warm to room temperature, add water (10 mL) and filter the resulting solid, dry under vacuum.

reactant | (1H-indol-3-yl)acetonitrile | 3.40 mmol | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | potassium carbonate | 0.200 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 0.6 mL | OO | H2O2
reactant | water | 10 mL | O | H2O
solvent | dimethyl sulfoxide | 3.0 mL | CS(=O)C | C2H6OS
product | 2-(8-Hydroxymethyl-6,7,8,9-tetrahydropyrido[1,2-a]indol 10-yl)acetamide | OCC1CC=2N(C3=CC=CC=C3C2CC(=O)N)CC1 | C15H18N2O2
